US06133271
With the procedure of Example 1, the reaction of 3,4-dichlorobenzylamine with 4-chloro-2-(pyrazin-2-yl)-6-nitro-thieno-[2,3-d]-pyrimidine yields 2-(pyrazin-2-yl)-4-(3,4-dichlorobenzylamino)-6-nitro-thieno-[2,3-d]-pyrimidine.

reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
reactant | 4-chloro-2-(pyrazin-2-yl)-6-nitro-thieno-[2,3-d]-pyrimidine | ClC=1C2=C(N=C(N1)C1=NC=CN=C1)SC(=C2)[N+](=O)[O-] | C10H4ClN5O2S
product | 2-(pyrazin-2-yl)-4-(3,4-dichlorobenzylamino)-6-nitro-thieno-[2,3-d]-pyrimidine | N1=C(C=NC=C1)C=1N=C(C2=C(N1)SC(=C2)[N+](=O)[O-])NCC2=CC(=C(C=C2)Cl)Cl | C17H10Cl2N6O2S
